US04182769
4,5-Diphenyl-2-(1,1,2,2-tetrafluoroethylthio)-1-(2-tetrahydrofuranyl)imidazole
To a stirred solution of 1.8 g (0.005 mole) of 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole and 5 g (0.05 mole) triethylamine in 20 ml tetrahydrofuran, was added dropwise at room temperature a solution of 2-chlorotetrahydrofuran, which had been prepared by adding 2.4 g (0.018 mole) of sulfuryl chloride to 30 ml tetrahydrofuran and waiting until the exothermic reaction mixture had returned to room temperature. The reaction mixture was stirred at room temperature for four days, then poured into ice water containing excess sodium bicarbonate. The aqueous mixture was extracted with methylene chloride, which was dried and concentrated. The crystalline residue was purified by chromatography on silica gel, eluting with toluene, to give 1.6 g of product, mp 145°-6° (from methylcyclohexane).

reactant | 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | 0.005 mole, 1.8 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SC(C(F)F)(F)F | C17H12F4N2S
reactant | triethylamine | 0.05 mole, 5 g | C(C)N(CC)CC | C6H15N
reactant | 2-chlorotetrahydrofuran | ClC1OCCC1 | C4H7ClO
reactant | sulfuryl chloride | 0.018 mole, 2.4 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4,5-Diphenyl-2-(1,1,2,2-tetrafluoroethylthio)-1-(2-tetrahydrofuranyl)imidazole | 1.6 g | C1(=CC=CC=C1)C=1N=C(N(C1C1=CC=CC=C1)C1OCCC1)SC(C(F)F)(F)F | C21H18F4N2OS
